US06608085B1
4-(3-Benzyl-2,3,4,5-tetrahydro-5-oxazolyl)-2,8-bis(trifluoromethyl)quinoline
To a solution of α-benzylaminomethyl-2,8-bis(trifluoromethyl)-4-quinolinemethanol (142 mg, 0.34 mmol) in MeOH (3 mL) was added formaldehyde (0.2 mL, 37% in water), the mixture was refluxed for 30 mins, cooled, concentrated in vacuo, and the residue was suspended in heptane and filtered to give the title compound (41 mg, 28%) as a white solid: mp 108.5-108.9° C.; IR νmax (Nujol)/cm−1 2924, 2854, 1602, 1586, 1458, 1378, 1306, 1271, 1184, 1153, 1139, 1127, 1105, 775 and 726; NMR δH (400 MHz, CDCl3) 2.85 (1H, dd, J 11.7, 7.0 Hz), 3.77 (1H, dd, J 11.7, 7.4 Hz), 3.85 (1H, d, J 13.1 Hz), 3.90 (1H, d, 13.1 Hz), 4.71 (1H, d, J 5.8 Hz), 4.74 (1H, d, J 5.8 Hz), 5.72 (1H, t, J 7.0 Hz), 7.21-7.43 (5H, m), 7.72 (1H, t, J 7.9 Hz), 8.17 (1H, d, J 7.5 Hz), 8.11 (1H, s) and 8.03 (1H, d, J 8.1 Hz).

reactant | α-benzylaminomethyl-2,8-bis(trifluoromethyl)-4-quinolinemethanol | 0.34 mmol, 142 mg | C(C1=CC=CC=C1)NCC(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C20H16F6N2O
reactant | formaldehyde | 0.2 mL | C=O | CH2O
solvent | MeOH | 3 mL | CO | CH4O
product | 4-(3-Benzyl-2,3,4,5-tetrahydro-5-oxazolyl)-2,8-bis(trifluoromethyl)quinoline | 41 mg, 28% | C(C1=CC=CC=C1)N1COC(C1)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C21H16F6N2O
